US06184180B2
Synthesis of N-(3-morpholinopropyl)-3-dodecylthiopropanamide
In a 200 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 8.23 g of 3-dodecylthiopropionic acid, 4.6 g of oxalyl chloride and 50 ml of toluene, and the mixture was stirred under room temperature for 20 hours. After completion of the reaction, excessive oxalyl chloride and toluene were removed by distillation under reduced pressure to prepare acid chloride. Whole amount of the resulting acid chloride was gradually added dropwise to 5.2 g of N-(3-aminopropyl)morpholine, 3.7 g of triethylamine and 60 ml of DMAc solution which had been previously charged in a flask, and after completion of the dropwise addition, the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the reaction mixture was poured into 300 ml of distilled water and extracted with chloroform. The chloroform layer was washed with a saturated saline solution and chloroform was removed by distillation. The residue was recrystallized from methanol to obtain 6.5 g of the title compound. Melting point: 46° C.

reactant | 3-dodecylthiopropionic acid | 8.23 g | C(CCCCCCCCCCC)CCC(=S)O | C15H30OS
reactant | oxalyl chloride | 4.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-(3-aminopropyl)morpholine | 5.2 g | NCCCN1CCOCC1 | C7H16N2O
solvent | water | 300 ml | O | H2O
solvent | DMAc | 60 ml | CC(=O)N(C)C | C4H9NO
solvent | triethylamine | 3.7 g | C(C)N(CC)CC | C6H15N
product | N-(3-morpholinopropyl)-3-dodecylthiopropanamide | 6.5 g | O1CCN(CC1)CCCNC(CCCCCCCCCCCCCC)=S | C22H44N2OS
